US05463084
3-Ethyl-3-allylthiomethyloxetane
A solution of 2-(3-oxetane)butyl tosylate of example 3 in an inert solvent such as THF is stirred with one equivalent of allyl mercaptan at room temperature until reaction is complete. The solvent is stripped and the residue taken up in ether. The ether is washed with saturated aqueous NaHCO3, dried over MgSO4 and stripped to provide 3-ethyl-3-allythiomethyloxetane.

reactant | THF | C1CCOC1 | C4H8O
reactant | allyl mercaptan | one equivalent | C(C=C)S | C3H6S
reactant | ether | CCOCC | C4H10O
product | 3-Ethyl-3-allylthiomethyloxetane | C(C)C1(COC1)CSCC=C | C9H16OS
